US08114865B2
Step 3. 5-(3,5-difluoro-benzenesulfonyl)-1H-indazol-3-ylamine [(VIII), R1=R2=R3=H, R=3,5-difluorophenyl]
5-(3,5-Difluoro-benzenesulfonyl)-2-nitro-benzonitrile (3.5 g, 10.8 mmol) was heated in anhydrous ethanol (175 mL) until completely dissolved. The solution was then treated with hydrazine hydrate (0.58 mL, 1.1 mol eq.) and refluxed for three hours. The reaction mixture was evaporated to dryness; the residue was dissolved in acetone, adsorbed onto flash chromatography-grade silica gel by rotoevaporation of the solvent. The silica was loaded onto a flash chromatography column conditioned with 10:1 dichloromethane/acetone. The column was then eluted with dichloromethane/acetone (gradient: from 10:1 to 2:1) followed by a final washing with dichloromethane/acetone/methanol. The pure fractions were collected and evaporated to afford the title compound as a whitish crystalline powder (2.44 g, 73%).

reactant | 5-(3,5-Difluoro-benzenesulfonyl)-2-nitro-benzonitrile | 10.8 mmol, 3.5 g | FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C13H6F2N2O4S
reactant | hydrazine hydrate | 1.1 mol, 0.58 mL | O.NN
solvent | ethanol | 175 mL | C(C)O | C2H6O
product | 5-(3,5-difluoro-benzenesulfonyl)-1H-indazol-3-ylamine | 2.44 g, 73% | FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=C2C(=NNC2=CC1)N | C13H9F2N3O2S
